US08030500B2
1-(3-Bromophenyl)-1-(2-(difluoromethyl)pyridin-4-yl)-4-fluoro-1H-isoindol-3-amine
n-Butyllithium (0.254 mL, 0.63 mmol) was dropwise added to 4-bromo-2-(difluoromethyl)pyridine (120 mg, 0.58 mmol) in anhydrous THF (5.00 mL) at −78° C. under argon atmosphere. The reaction mixture was stirred for 25 min. N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (235 mg, 0.58 mmol) in anhydrous THF (5.00 mL) was dropwise added. The reaction mixture was stirred for 2 h, then methanol (5 mL) was added and the temperature was allowed to reach room temperature. The reaction mixture was partitioned between aqueous ammonium chloride and ethyl acetate. The aqueous phase was extracted with ethyl acetate (×3). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by prep. HPLC to afford the title compound (47.1 mg, 18%).

reactant | n-Butyllithium | 0.63 mmol, 0.254 mL | C(CCC)[Li]
reactant | 4-bromo-2-(difluoromethyl)pyridine | 0.58 mmol, 120 mg | BrC1=CC(=NC=C1)C(F)F | C6H4BrF2N
reactant | N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.58 mmol, 235 mg | BrC=1C=C(C=CC1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C18H16BrFN2OS
reactant | methanol | 5 mL | CO | CH4O
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromophenyl)-1-(2-(difluoromethyl)pyridin-4-yl)-4-fluoro-1H-isoindol-3-amine | 47.1 mg, 18% | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)F | C20H13BrF3N3
